US06653471B2
A mixture of 11.3 g (0.05 mol) of 2-dimethoxymethyl-nicotinic acid ethyl ester dissolved in 150 mL of ether and 2.09 g (0.055 mol) of lithium aluminum hydride is stirred at room temperature for 18 hours. An additional 530 mg of lithium aluminum hydride is added and the reaction mixture stirred for another 3 hours. The reaction mixture is cooled using an ice bath and quenched with 6 mL of 1N NaOH and 8 g of sodium sulfate decahydrate. After a ½ hour the reaction mixture is filtered and the filtrate evaporated. The residue is chromatographed on 180 g of silica gel using ethyl acetate as the eluant. Appropriate fractions are combined and evaporated to yield 4.45 g of (2-dimethoxymethyl-pyridin-3-yl) methanol. 1H NMR (CDCl3) δ8.40 (d, 1H), 7.70 (d, 1H), 7.20 (m, 1H), 5.35 (s, 1H), 4.75 (s, 2H), 3.40 (s, 3H).

reactant | 2-dimethoxymethyl-nicotinic acid ethyl ester | 0.05 mol, 11.3 g | C(C)OC(C1=C(N=CC=C1)C(OC)OC)=O | C11H15NO4
reactant | lithium aluminum hydride | 0.055 mol, 2.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 530 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 150 mL | CCOCC | C4H10O
product | (2-dimethoxymethyl-pyridin-3-yl) methanol | 4.45 g | COC(C1=NC=CC=C1CO)OC | C9H13NO3
